US07846956B2
0.25 g of ethyl 5-[1-methyl-1-(2-propynyloxy)ethyl]isoxazole-3-carboxylate was dissolved in 2 ml of ethanol, and 0.1 g of sodium borohydride was then added. The mixture was stirred at room temperature for 5 hours. After 20 ml of water was added, the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.20 g of {5-[1-methyl-1-(2-propynyloxy)ethyl]isoxazol-3-yl}methanol.

reactant | ethyl 5-[1-methyl-1-(2-propynyloxy)ethyl]isoxazole-3-carboxylate | 0.25 g | CC(C)(OCC#C)C1=CC(=NO1)C(=O)OCC | C12H15NO4
reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | {5-[1-methyl-1-(2-propynyloxy)ethyl]isoxazol-3-yl}methanol | 0.20 g | CC(C)(OCC#C)C1=CC(=NO1)CO | C10H13NO3
